US07696192B2
Step H. (7-Methyl-6-oxo-2a,3,4,5,6,7-hexahydroazocino[-4,3,2-cd]indol-1(2H)-yl)acetic acid, enantiomer A
A solution of tert-butyl (7-methyl-6-oxo-2a,3,4,5,6,7-hexahydroazocino[4,3,2-cd]indol-1(2H)-yl)acetate, enantiomer A, from Step G (18 mg, 0.057 mmol) in EtOAc (1 mL) was saturated with HCl (g), aged at ambient temperature for 10 min, then resaturated with HCl (g). After a further 10 min, the mixture was concentrated in vacuo to give the title compound. MS: m/z=275 (M+1).

reactant | tert-butyl (7-methyl-6-oxo-2a,3,4,5,6,7-hexahydroazocino[4,3,2-cd]indol-1(2H)-yl)acetate | CN1C(CCCC2CN(C=3C=CC=C1C23)CC(=O)OC(C)(C)C)=O | C19H26N2O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
product | (7-Methyl-6-oxo-2a,3,4,5,6,7-hexahydroazocino[-4,3,2-cd]indol-1(2H)-yl)acetic acid | CN1C(CCCC2CN(C=3C=CC=C1C23)CC(=O)O)=O | C15H18N2O3
